US08623889B2
Step 1: 4-fluoro-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine
7-(5-Fluoro-2-methylphenyl)isoquinolin-3-amine (203 mg, 806 μmol) and 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (313 mg, 883 μmol) were dissolved together in acetonitrile (2.0 mL) at ambient temperature and the mixture stirred for 16 h, at which time LCMS indicated approx 40% conversion. The mixture was diluted with water, extracted three times into dichloromethane and the combined organic phases washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica, ISCO, 0-6% methanol in dichloromethane) to yield the impure title compound as a pale solid (107 mg), used without further purification.

reactant | 7-(5-Fluoro-2-methylphenyl)isoquinolin-3-amine | 806 μmol, 203 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 883 μmol, 313 mg | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-fluoro-7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 107 mg | FC1=C(N=CC2=CC(=CC=C12)C1=C(C=CC(=C1)F)C)N | C16H12F2N2
